US08563723B2
(4-{[(8-Benzyl-2,3,8-triaza-spiro[4.5]dec-3-en-2-yl)-ethylamino-methylene]-sulfamoyl}-phenyl)-carbamic acid tert-butyl ester
To a solution of 510 mg 4-amino-N-[(8-benzyl-2,3,8-triaza-spiro[4.5]dec-3-en-2-yl)-ethylamino-methylene]-benzenesulfonamide in 10 mL 1,4-dioxane was added 490 mg (2 equiv.) di-tert-butyl dicarbonate. The mixture was stirred at reflux overnight, cooled down and concentrated on silica. Purification with flash column chromatography (DCM/MeOH 99:1→95:5) yielded 550 mg (87%) of a yellow glass. 1H NMR (400 MHz, CDCl3) δ 1.14 (t, J=7 Hz, 3H), 1.47-1.61 (m, 11H), 1.73-1.86 (m, 2H), 2.11-2.26 (m, 2H), 2.64-2.76 (m, 2H), 3.41-3.54 (m, 2H), 3.80 (s, 2H), 6.66 (s, 1H), 6.78 (s, 1H), 6.94 (br s, 1H), 7.21-7.37 (m, 5H), 7.41-7.48 (m, 2H), 7.82-7.89 (m, 2H).

reactant | 4-amino-N-[(8-benzyl-2,3,8-triaza-spiro[4.5]dec-3-en-2-yl)-ethylamino-methylene]-benzenesulfonamide | 510 mg | NC1=CC=C(C=C1)S(=O)(=O)N=C(NCC)N1CC2(C=N1)CCN(CC2)CC2=CC=CC=C2 | C23H30N6O2S
reactant | di-tert-butyl dicarbonate | 490 mg, 2 equiv. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (4-{[(8-Benzyl-2,3,8-triaza-spiro[4.5]dec-3-en-2-yl)-ethylamino-methylene]-sulfamoyl}-phenyl)-carbamic acid tert-butyl ester | 550 mg, 87% | C(C)(C)(C)OC(NC1=CC=C(C=C1)S(N=C(NCC)N1CC2(C=N1)CCN(CC2)CC2=CC=CC=C2)(=O)=O)=O | C28H38N6O4S
